US07786132B2
(ii) 5-Bromo-2-chloro-4-{2-[phenyl(trimethylsilyloxy)methyl]-thiazol-5-yl}pyrimidine
A 1.7 M solution of tBuLi in pentane (1.8 mL, 3.0 mmol) was added to a stirred solution of 0.80 g (3.0 mmol) of 2-[phenyl(trimethylsilyloxy)methyl]thiazole in 25 mL of THF at −78° C. The solution was stirred for 10 min at −78° C. before 0.59 g (3.0 mmol) of 5-bromo-2-chloropyrimidine was added. The reaction solution was stirred for 30 min at −78° C., then quenched by addition of 1 mL of AcOH in 4 mL of MeOH. Solid 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (1.4 g, 6.1 mmol) was added and the reaction solution was warmed to 0° C. and stirred for 10 min. The reaction solution was then poured into 50 mL of a 0.5 M solution of sodium ascorbate, diluted with 100 mL of a 1 M aqueous solution of Na2CO3. The aqueous solution was extracted four times with CHCl3 and the combined organic extracts dried over MgSO4, filtered and concentrated to give the crude product which was purified by flash chromatography eluting with a linear gradient of 30% EtOAc in hexane to neat EtOAc to deliver the title compound. MS (M+H)+ 456.

reactant | tBuLi | [Li]C(C)(C)C
reactant | pentane | 3.0 mmol, 1.8 mL | CCCCC | C5H12
reactant | 2-[phenyl(trimethylsilyloxy)methyl]thiazole | 3.0 mmol, 0.80 g | C1(=CC=CC=C1)C(C=1SC=CN1)O[Si](C)(C)C | C13H17NOSSi
reactant | 5-bromo-2-chloropyrimidine | 3.0 mmol, 0.59 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 6.1 mmol, 1.4 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | sodium ascorbate | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | 5-Bromo-2-chloro-4-{2-[phenyl(trimethylsilyloxy)methyl]-thiazol-5-yl}pyrimidine | BrC=1C(=NC(=NC1)Cl)C1=CN=C(S1)C(O[Si](C)(C)C)C1=CC=CC=C1 | C17H17BrClN3OSSi
